US03984546
1,2,3,4-Tetrahydro-7,8-dimethoxy-3-(2-piperidinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one.
In the same way as described in Example 5, 5.7 mmoles of 1,2,3,4-tetrahydro-7,8-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one was alkylated with N-(2-chloroethyl)-piperidine to give, after recrystallization from MeOH, 0.5 g of product; mp 236°-239°C.

reactant | 1,2,3,4-tetrahydro-7,8-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 5.7 mmoles | COC1=C(C=CC2=C1OC(C=1CNCCC12)=O)OC | C14H15NO4
reactant | N-(2-chloroethyl)-piperidine | ClCCN1CCCCC1 | C7H14ClN
product | 1,2,3,4-Tetrahydro-7,8-dimethoxy-3-(2-piperidinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | COC1=C(C=CC2=C1OC(C=1CN(CCC12)CCN1CCCCC1)=O)OC | C21H28N2O4
